US04920133
4-Hydroxy acetophenone (0.01 mol) in ethanol (100 ml) is added dropwise to a 0° C. mixture of 3-(2-quinolinylmethyloxy)benzaldehyde (0.01 mol) and sodium ethoxide (0.00 mol) in ethanol (200 ml). The reaction mixture is allowed to thaw to ambient temperature and after several hours it is evaporated and partitioned between ethyl acetate and water. The ethyl acetate fraction is dried and evaporated to give 4-(3-(3-(2-quinolinylmethyloxy)phenyl)-1-oxo-2-propen-1-yl)-phenol.

reactant | 4-Hydroxy acetophenone | 0.01 mol | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | 3-(2-quinolinylmethyloxy)benzaldehyde | 0.01 mol | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C=O)C=CC1 | C17H13NO2
reactant | sodium ethoxide | 0.00 mol | [O-]CC.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(3-(3-(2-quinolinylmethyloxy)phenyl)-1-oxo-2-propen-1-yl)-phenol | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C=CC(=O)C1=CC=C(C=C1)O | C25H19NO3
